US04638067
[3R-(R*,R*)]-1-(1-Phenylethyl)-3-pyrrolidinemethanol
A solution of 10.0 g (0.5 mmol) [3R-(R*, R*)]-methyl 5-oxo-1-(-1-phenylethyl)-3-pyrrolidinecarboxylate in 75 ml dry tetrahydrofuran was added dropwise to a mixture of 6.50 g (171 mmol) lithium aluminum hydride in 100 ml tetrahydrofuran. The mixture was refluxed overnight, diluted with 50 ml tetrahydrofuran and treated dropwise with 6.5 ml water, 6.5 ml 15% sodium hydroxide and 19.5 ml water. Solids were removed by filtration and the filtrate was evaporated to a syrup which was dissolved in dichloromethane, dried (MgSO4), and reevaporated to give 8.06 g of crude crystalline product. Recrystallization from hexane afforded 7.25 g (87%) of the title compound, mp 86°-88° C. [α]D +51.3° C. (C, 1.06, methanol).

reactant | methyl 5-oxo-1-(-1-phenylethyl)-3-pyrrolidinecarboxylate | O=C1CC(CN1C(C)C1=CC=CC=C1)C(=O)OC | C14H17NO3
reactant | lithium aluminum hydride | 171 mmol, 6.50 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6.5 ml | O | H2O
reactant | sodium hydroxide | 6.5 ml | [OH-].[Na+]
reactant | water | 19.5 ml | O | H2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(1-Phenylethyl)-3-pyrrolidinemethanol | 7.25 g, 87% | C1(=CC=CC=C1)C(C)N1CC(CC1)CO | C13H19NO
